US08420849B2
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (967 mL) solution of 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dichlorothiophene (96.7 g, 221 mmol, purity: 63%) was cooled to −18° C., and to this solution, a chloroform (193 mL) solution of sulfuryl chloride (19.5 mL, 1.15 equivalent amounts) was dropwise added over a period of 20 minutes, followed by stirring at −20° C. for 1 hour. The temperature of the solution was raised to 0° C., and water (193 mL) was dropwise added over a period of 5 minutes, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a saturated sodium hydrogencarbonate aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. To the obtained crude product, 2-propanol (967 mL) was added, followed by stirring at 5° C. for 1 hour. The formed crystals were subjected to filtration to give the desired product as a pale yellow solid (49.4 g, yield: 51%).

reactant | chloroform | 967 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dichlorothiophene | 221 mmol, 96.7 g | ClC=1C=C(C=CC1Cl)C1(SC(=C(C1O)C(=O)C)Cl)Cl | C12H8Cl4O2S
reactant | chloroform | 193 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 19.5 mL, 1.15 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 193 mL | O | H2O
solvent | 2-propanol | 967 mL | CC(C)O | C3H8O
product | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonyl thiophene | 49.4 g, yield: 51% | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
